US05719141
d) Ethyl 1-(tert-butoxycarbonyl)indoline-3(R,S)-carboxylate
A solution of 1.0 g of ethyl 1-(tert-butoxycarbonyl)indole-3-carboxylate in 20 ml of anhydrous ethanol is hydrogenated in the presence of 0.50 g of palladium-on-charcoal (5% of Pd) at 80° C. until the reaction has ended. After the reaction mixture has been filtered over Celite '545 and the filtrate has been concentrated, the oily residue is purified by means of FC over 15 g of silica gel with a 15:1 mixture of hexane and ethyl acetate as the mobile phase. This gives the title compound: Rf (G)=0.39; anal. calc. for C16H21NO4 : C65.96%, H7.27%, N4.81%; found C65.67%, H7.18%, N4.77%.

reactant | ethyl 1-(tert-butoxycarbonyl)indole-3-carboxylate | 1.0 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C(=O)OCC | C16H19NO4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.50 g | [Pd] | Pd
product | Ethyl 1-(tert-butoxycarbonyl)indoline-3(R,S)-carboxylate | C(C)(C)(C)OC(=O)N1CC(C2=CC=CC=C12)C(=O)OCC | C16H21NO4
